US05286905
A 150 cc autoclave was charged with 50.0 g (277 mmol) of 1-methyl-2-(3,5-dimethylphenoxy)ethanol, 15.4 g of a copper-chromium catalyst (N202, supplied by Nikki Chemical Co.: CuO 44-46%, Cr2O3 43-44%, MnO2 4-5%) preliminarily activated under a hydrogen current at 200° to 300° C. for 3 hours and 7.5 g (440 mmol) of ammonia, and the resultant mixture was stirred under a hydrogen pressure of 40 kg/cm2G at 250° C. for 2 hours. After the reaction mixture was allowed to cool, the pressure of excess ammonia and hydrogen was released, and the catalyst was removed by filtration. And, 200 ml of ethyl ether was added to the filtrate, and the mixture was subjected to extraction with 200 ml of a 20% hydrochloric acid aqueous solution. The extracted water layer was rendered alkaline with a 20% sodium hydroxide aqueous solution, and it was subjected to extraction with 200 ml of ethyl ether. The organic layer was dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure to give 21.4 g of 1-(3,5-dimethylphenoxy)-2-aminopropane (yield 43%). This yield is higher than that which could be attained by the conventional method described in JP-A-63-264465. The starting 1-methyl-2-(3,5-dimethylphenoxy)ethanol in an amount of 23.9 g (48%) was recovered from the organic layer extracted with the hydrochloric acid aqueous solution. The selectivity of the intended product, calculated on the basis of the amount obtained by deducting an unreacted starting material from the total amount of the starting material, was 82%. This selectivity was also higher than that which could be attained by the conventional method described in Polish Laid-open Patent Publication No. 142,711.

reactant | 1-methyl-2-(3,5-dimethylphenoxy)ethanol | 277 mmol, 50.0 g | CC(COC1=CC(=CC(=C1)C)C)O | C11H16O2
reactant | ammonia | 440 mmol, 7.5 g | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | copper-chromium | 15.4 g | [Cr].[Cu]
product | 1-(3,5-dimethylphenoxy)-2-aminopropane | 21.4 g, yield 43% | CC=1C=C(OCC(C)N)C=C(C1)C | C11H17NO
